US08877815B2
A solution of tert-butyl cyanoacetate (2.52 ml, 17.63 mmol), 3,4-dichlorobenzaldehyde (2.57 g, 14.69 mmol) and piperidine (0.145 ml, 1.469 mmol) in EtOH (50 ml) was allowed to stir at 80° C. for 15 hours, and then cooled to ambient temperature. A half volume of the solvent was evaporated, and 400 ml of water was added to the resulting mixture. The precipitated solid was collected and washed with 5% iPrOH/H2O (200 ml). The solid was dried under reduced pressure to give (E)-tert-butyl 2-cyano-3-(3,4-dichlorophenyl)acrylate (3.577 g); Retention time=1.61 minutes (condition A); MS (ES+)=315.1 (m+18).

reactant | tert-butyl cyanoacetate | 17.63 mmol, 2.52 ml | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | 3,4-dichlorobenzaldehyde | 14.69 mmol, 2.57 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | piperidine | 1.469 mmol, 0.145 ml | N1CCCCC1 | C5H11N
solvent | EtOH | 50 ml | CCO | C2H6O
product | (E)-tert-butyl 2-cyano-3-(3,4-dichlorophenyl)acrylate | 3.577 g | C(#N)/C(/C(=O)OC(C)(C)C)=C\C1=CC(=C(C=C1)Cl)Cl | C14H13Cl2NO2
